US08461339B2
B. 1-Boc-4-(N-methylcarbamoyl)piperazine
A solution of 1-Boc-4-(chlorocarbonyl)piperazine (300 mg, 1.22 mmol), pyridine (288.4 mg, 3 equiv), and methylamine (1.83 mmol, 1.5 equiv) in dichloromethane was refluxed overnight. The solution was quenched by the dropwise addition of water. The organic layer was separated, dried over anhydrous Na2SO4, and evaporated in vacuo. The residue was purified by flash chromatography to give the title compound as a solid (˜70% yield).

reactant | 1-Boc-4-(chlorocarbonyl)piperazine | 1.22 mmol, 300 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
reactant | pyridine | 288.4 mg, 3 equiv | N1=CC=CC=C1 | C5H5N
reactant | methylamine | 1.83 mmol, 1.5 equiv | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Boc-4-(N-methylcarbamoyl)piperazine | ˜70% yield | C(=O)(OC(C)(C)C)N1CCN(CC1)C(NC)=O | C11H21N3O3
